US04937242
Synthesis of 3-(1-piperazinyl)-2,2-dimethylpropyl methyl 2,6-dimethyl-4-(m-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate
460 mg of 3-(4-formyl-1-piperazinyl)-2,2-dimethylpropyl methyl 2,6-dimethyl-4-(m-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate was dissolved in 1.5 ml of methanol and 0.3 ml of an ethanol solution of 9.9H hydrogen chloride was added. After stirring the mixed solution for one night, isopropyl ether was added. The solid which separated was collected by filtration, dissolved in saturated aqueous sodium bicarbonate and extracted with ethyl acetate. After washing with saturated solution of sodium chloride, the extract was dried with anhydrous sodium sulfate; then, the solvent was evaporated under reduced pressure to give 350 mg of the subject compound (yield: 81%).

reactant | 3-(4-formyl-1-piperazinyl)-2,2-dimethylpropyl methyl 2,6-dimethyl-4-(m-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | 460 mg | CC=1NC(=C(C(C1C(=O)OCC(CN1CCN(CC1)C=O)(C)C)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C26H34N4O7
reactant | ethanol | 0.3 ml | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | methanol | 1.5 ml | CO | CH4O
product | 3-(1-piperazinyl)-2,2-dimethylpropyl methyl 2,6-dimethyl-4-(m-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | 350 mg, yield: 81% | CC=1NC(=C(C(C1C(=O)OCC(CN1CCNCC1)(C)C)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C25H34N4O6
